US08486940B2
(S)-3-(1H-benzo[d]imidazol-5-yl)-4-benzyloxazolidin-2-one
The compound was synthesized starting from (S)-4-benzyloxazolidin-2-one (0.089 g, 0.5 mmol), 4-iodobenzene-1,2-diamine (0.117 g, 0.5 mmol), copper(I) iodide (0.010 g, 0.05 mmol), cesium fluoride (0.276 g, 1 mmol), cyclohexane-1,2-diamine (0.006 mL, 0.05 mmol), triethyl orthoformate (3 mL) as described in method 5 step D.

reactant | (S)-4-benzyloxazolidin-2-one | 0.5 mmol, 0.089 g | C(C1=CC=CC=C1)[C@@H]1NC(OC1)=O | C10H11NO2
reactant | 4-iodobenzene-1,2-diamine | 0.5 mmol, 0.117 g | IC=1C=C(C(=CC1)N)N | C6H7IN2
reactant | cesium fluoride | 1 mmol, 0.276 g | [F-].[Cs+]
reactant | cyclohexane-1,2-diamine | 0.05 mmol, 0.006 mL | C1(C(CCCC1)N)N | C6H14N2
reactant | triethyl orthoformate | 3 mL | C(OCC)(OCC)OCC | C7H16O3
catalyst | copper(I) iodide | 0.05 mmol, 0.010 g | [Cu]I
product | (S)-3-(1H-benzo[d]imidazol-5-yl)-4-benzyloxazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(OC[C@@H]2CC2=CC=CC=C2)=O | C17H15N3O2
